* VFD-filament regulator netlist for IV-6 (tube=iv6)
* Generated from regulator.py make_netlist (TUBES['iv6']);
* matches the netlist that regulator_iv6.asc was converted from.

* Regulator netlist: polarity_swap=False, instrument_power=False, use_split_gain=True
.include /home/lewisbrown/claude-code/smps-design-tools/ngspice_examples/uopamp.lib
.include /home/lewisbrown/claude-code/smps-design-tools/ngspice_examples/spice_models/H11F1.spice.txt
* Output class-AB push-pull: Nexperia BCX54 (NPN) / BCX51 (PNP), SOT-89, 1 A,
* VCEO 45 V (~2.5x margin on +-10 V rails; off-device sees ~17 V pk).
* Class-AB bias is a V_BE multiplier (Q_vbm_t/b, also BCX54, thermally coupled),
* tuned for Iq ~20 mA -> ~0.05-0.58 W/device.  Replaced BCX54/869 (VCEO 20 V) +
* the old 4-diode bias string, which over-biased the power devices to Iq=242 mA
* / ~1.9 W/device (verified 2026-06-04, all 4 tubes).
.model BCX54 NPN (IS=7.905E-14 NF=0.9948 ISE=6.507E-15 NE=1.302 BF=143 IKF=0.45 VAF=8 NR=0.9943 ISC=2.266E-14 NC=1.361 BR=35.83 IKR=1.8 VAR=81 RB=10.4 IRB=0.0011 RBM=2.5 RE=0.0864 RC=0.1173 XTB=0 EG=1.11 XTI=3 CJE=1.442E-10 VJE=0.7013 MJE=0.3245 TF=7.8E-10 XTF=7 VTF=5 ITF=2 PTF=0 CJC=2.052E-11 VJC=0.5 MJC=0.4015 XCJC=1 TR=2.3E-8 CJS=0 VJS=0.75 MJS=0.333 FC=0.9)
.model BCX51 PNP (IS=1.01E-13 NF=1.006 ISE=7.054E-15 NE=1.3 BF=157.5 IKF=1 VAF=15.62 NR=1.006 ISC=1.406E-14 NC=1.325 BR=13.46 IKR=0.86 VAR=80 RB=10 IRB=0.001 RBM=2.5 RE=0.1363 RC=0.006969 XTB=1.779 EG=1.11 XTI=5.698 CJE=1.049E-10 VJE=0.7623 MJE=0.3879 TF=1.115E-9 XTF=2.02 VTF=3.118 ITF=0.759 PTF=0 CJC=4.998E-11 VJC=0.9968 MJC=0.4942 XCJC=1 TR=6.5E-8 CJS=0 VJS=0.75 MJS=0.333 FC=0.8944)

.param T_amb=300.0
.param R_amb=6.164069e+00
.param sigma_eps_A=1.245330e-13
.param C_th=2.550436e-05
.param fil_exp=1.2

.subckt filament v_top v_bot T_node r_fil
B_fil   v_top v_bot I = (V(v_top) - V(v_bot)) / (R_amb * (max(V(T_node),T_amb)/T_amb)^fil_exp)
B_pelec 0 T_node    I = (V(v_top)-V(v_bot))*(V(v_top)-V(v_bot)) / (R_amb * (max(V(T_node),T_amb)/T_amb)^fil_exp)
B_prad  T_node 0    I = sigma_eps_A * (max(V(T_node),T_amb)^4 - T_amb^4)
C_th    T_node 0    {C_th} IC=300.0
B_R     r_fil 0     V = R_amb * (max(V(T_node),T_amb)/T_amb)^fil_exp
.ends


* Power supplies with optional ramp.  Real PSUs charge their output cap
* over ~ms; with t_rail_ramp=0 the rails step instantly (sim-only case).
* All rails ramp together so the relative timing matches hardware.
V_vcc vcc_top 0 DC 10
V_vee vee_top 0 DC -10
V_led_supply n_v_led 0 DC 5.0
R_sense_vcc vcc_top vcc_buf 0.1
R_sense_vee vee_top vee_buf 0.1



* V_src models the Wien oscillator output.  We use a 2-NPN/diode CLAMP Wien
* (NOT an integrator-driven JFET AGC), which limits amplitude by clipping the
* loop gain and settles in a FEW CYCLES.  Its amplitude GROWS exponentially
* (loop gain >1) from the power-on kick to the clamp level over t_src_ramp
* (~17ms / ~17 cycles, measured from wien_oscillator.py) -- a concave-UP
* build-up, NOT the old concave-down 1-exp (which described a slow JFET AGC we
* don't use).  The integrator still winds to the V_int clamp during this fast
* rise (the harmless drive slam), but with PRE-log sensing the loop has un-railed
* feedback and throttles back exactly as the filament reaches target -> no temp
* overshoot, so no clamp-ceiling ramp is needed.
* env(t) = exp((t - t_src_ramp)*g/t_src_ramp), g=3.4 so env(0) ~ 3% (the kick),
* env(t_src_ramp) = 1, clamped at 1 thereafter.
B_src v_src 0 V = 0.0268701 * (time < 0.017 ? exp((time-0.017)*200) : 1) * sin(2*3.141592653589793*1000.0*time)

R_atten_top v_src n_atten_raw 12000
R_atten_bot n_atten_raw 0 1000
XU_atten_buf n_atten_raw v_atten vcc_buf vee_buf v_atten uopamp_lvl3 Avol=5meg GBW=1meg Rin=100g Rout=10 Iq=800u Ilimit=25m Vos=50u Vmax=30 Vrail=0.1

* Split-gain Stage 1: H11F in feedback || R_max, R_in_s1 input
* H11F channel between n_h11f_inv (= virtual ground) and v_drv1
* LED bias inverted: V_LED supply → R_LED → LED anode, cathode → v_int_buf.
* The LED is driven from a UNITY BUFFER of v_int (not v_int directly) so
* the LED current does NOT flow through the anti-windup R_aw_out.  That
* removes the standing demod error (e_sat = I_LED·R_aw_out) that otherwise
* makes the setpoint depend on forward gain (the 'T tracks V_src' effect
* and the Set-B gain-fault sensitivity).  Clamp still acts on v_int.
R_in_vgain v_atten n_h11f_inv 40
R_max_s1   n_h11f_inv v_drv1 140
X_h11f     n_led_a v_int_buf n_h11f_inv v_drv1 H11F1
XU_led_buf v_int v_int_buf vcc_buf vee_buf v_int_buf uopamp_lvl3 Avol=5meg GBW=1meg Rin=100g Rout=10 Iq=800u Ilimit=25m Vos=50u Vmax=30 Vrail=0.1
XU_vgain   0 n_h11f_inv vcc_buf vee_buf v_drv1 uopamp_lvl3 Avol=5meg GBW=1meg Rin=100g Rout=10 Iq=800u Ilimit=25m Vos=50u Vmax=30 Vrail=0.1
* DC coupling between Stage 1 and Stage 2.  AC coupling caused
* slow settling artifacts during cold-start; Stage 1's Vos (10µV)
* through G2=201 gives only ~2mV at v_drv, negligible.
R_dc_couple v_drv1 n_s2_in 0
* Stage 2: fixed-gain non-inverting amp, G2 = 1 + R_fb/R_gnd
R_gnd_s2   n_minus_s2 0 100
R_fb_s2    v_drv n_minus_s2 2400.0
XU_s2      n_s2_in n_minus_s2 vcc_buf vee_buf v_drv uopamp_lvl3 Avol=5meg GBW=1meg Rin=100g Rout=10 Iq=800u Ilimit=25m Vos=50u Vmax=30 Vrail=0.1

* AC-couple between Stage 2 output (v_drv) and the buffer input.
* Blocks DC propagated through the Stage 1/Stage 2 gain chain (the dominant
* DC source is Stage 2's Vos × G2=201 ≈ 1V worst-case for non-chopper op-amps).
* C × R = 16ms gives 10 Hz corner; 0.57° phase shift at the 1 kHz carrier.
* The HP filter sits in the SIGNAL (carrier) chain only — the loop's DC
* sensing path runs through the chopper+integrator and is unaffected.
C_couple_buf v_drv     v_buf_in  1u  IC=0
R_bias_buf   v_buf_in  0         16k
XU_buf       v_buf_in  n_fb_buf vcc_buf vee_buf n_buf_o uopamp_lvl3 Avol=5meg GBW=1meg Rin=100g Rout=10 Iq=800u Ilimit=25m Vos=50u Vmax=30 Vrail=0.1
R_fb_buf v_osc_drive n_fb_buf 13000
R_in_buf n_fb_buf 0 1k
R_bbo_ta vcc_buf     mid_bbo_t   1100
R_bbo_tb mid_bbo_t    q_o_bn      1100
* Bootstrap caps tie bias chain to the BJT emitter node (n_buf_emi), NOT
* the post-R_cs load (v_osc_drive).  If they bootstrap to v_osc_drive,
* the I·R_cs drop reduces V_BE on the output BJTs and they collapse at
* peak current — destroys THD and defeats the current limit.
C_bbo_t  mid_bbo_t    n_buf_emi   4.7u IC=0
* V_BE-multiplier class-AB spreader (replaces the old 4-diode string): one
* multiplier per half, op-amp still drives the n_buf_o midpoint.  Each sets
* ~2 V_BE via R_vbm1/R_vbm2 (ratio 1.68 -> Iq ~20 mA).  Q_vbm are BCX54
* thermally coupled to the output pair (tracks V_BE over temperature, sets Iq).
Q_vbm_t  q_o_bn  vbm_t_b  n_buf_o  BCX54
R_vbm_t1 q_o_bn  vbm_t_b  680
R_vbm_t2 vbm_t_b n_buf_o  1000
Q_vbm_b  n_buf_o vbm_b_b  q_o_bp   BCX54
R_vbm_b1 n_buf_o vbm_b_b  680
R_vbm_b2 vbm_b_b q_o_bp   1000
R_bbo_bb q_o_bp       mid_bbo_b   1100
R_bbo_ba mid_bbo_b    vee_buf     1100
C_bbo_b  mid_bbo_b    n_buf_emi   4.7u IC=0
Q_o_drv_n   vcc_buf q_o_bn      n_o_pair_n   BCX54
Q_o_out_n   vcc_buf n_o_pair_n  n_buf_emi    BCX54
R_o_bleed_n n_o_pair_n n_buf_emi 5k
Q_o_drv_p   vee_buf q_o_bp      n_o_pair_p   BCX51
Q_o_out_p   vee_buf n_o_pair_p  n_buf_emi    BCX51
R_o_bleed_p n_o_pair_p n_buf_emi 5k
* Current-sense resistor between output BJT emitters and the load.
* Current limit threshold = V_BE_on / R_cs ≈ 0.6V / R_cs.
R_cs        n_buf_emi   v_osc_drive   0.01
* current limit disabled

* Series R between buffer output and the bridge top.  Limits cold-start
* current (since R_fil is small when cold and dominates the bridge
* impedance).  Bridge balance is unchanged because both arms tap the
* same v_bridge_top node — the R_series voltage drop is common-mode.
* With overpower_protect this R is replaced by the latching-relay disconnect.
R_series v_osc_drive v_bridge_top 0.01
X_filament v_bridge_top node_A T_node r_fil filament
R_sense  node_A      v_ap_drive 5.0
R_topref v_bridge_top node_B    2000.0
R_botref node_B      v_ap_drive 500.0
R_ap_gnd v_ap_drive  0          0.01

XU_buf_A  node_A n_node_A_buf vcc_buf vee_buf n_node_A_buf uopamp_lvl3 Avol=5meg GBW=1meg Rin=100g Rout=10 Iq=800u Ilimit=25m Vos=50u Vmax=30 Vrail=0.1
XU_buf_B  node_B n_node_B_buf vcc_buf vee_buf n_node_B_buf uopamp_lvl3 Avol=5meg GBW=1meg Rin=100g Rout=10 Iq=800u Ilimit=25m Vos=50u Vmax=30 Vrail=0.1

* Differencing-in-demod (replaces the old 1-op-amp difference amplifier).
* The bridge differential (node_B_buf - node_A_buf) is chopped by the drive
* sign directly, with gain K_diff.  Removing the pre-demod high-gain op-amp
* removes its single-fault failure modes: at balance it sat at ~0 output, so a
* feedback-open / input-short sent it open-loop and RAILED, forcing the loop to
* regulate to a ~5% bridge imbalance (the Set-B diff-amp overheat faults).  With
* the gain now POST-demod (gain-invariant setpoint from the buffered LED), those
* faults no longer exist.  Hardware: an analog-switch synchronous detector across
* the two buffered bridge nodes + a post-demod gain stage.  See the switch_demod
* flag above: False = this behavioural B-source (default, fast); True = the real
* commutating CD4053B chopper with split-R_dda_g (hardware-faithful, slower).
B_demod n_demod 0 V = 30*(V(n_node_B_buf) - V(n_node_A_buf)) * (V(v_osc_drive) >= 0 ? 1 : -1)
R_lp_demod n_demod n_demod_dc 100000.0
C_lp_demod n_demod_dc 0 2.2e-07

* ===== PRE-log sensing (no separate gain stage) =====
* The integrator senses the demod output n_demod_dc DIRECTLY; the loop gain
* the old ×20 "log demod" op-amp provided is folded into R_int (=5e4 vs the
* 1e6 it had behind the ×20 — identical small-signal loop transfer).  Removing
* that stage removes the cold-start RAILING it caused: at warm-up the ×20 pinned
* its output at the −9.9V op-amp rail from ~15ms (filament still 300K) right up
* to target (×20 turns even the small near-target imbalance into >9.9V), so the
* loop was BLIND through warm-up and overshot before it could throttle back.
* n_demod_dc stays graded/un-railed, so the loop sees the filament arriving and
* backs off precisely → +0.2K temp overshoot, tube-independent (2026-06-09).
V_set n_setpoint 0 DC 0
R_int_p n_setpoint n_int_plus 50000.0
R_int_pg n_int_plus 0 1G
* PID compensator with HF rolloff (matches the tuned compensator from the
* old test_closed_loop.py architecture).
*   Input branch (parallel):  R_int || C_pid (adds Kd through input)
*   Feedback branch (series): (R_pid || C_hf) + C_int
*   H(s) = -((R_pid || 1/sC_hf) + 1/sC_int) · (1 + sR_int·C_pid) / R_int
*   Integrator zero: f_zi = 1/(2π·R_pid·C_int) ≈ 5 Hz
*   HF rolloff: f_hf = 1/(2π·R_pid·C_hf) ≈ 160 Hz
* Damping (2026-06-05): demod LP sped up (C_lp 1u->0.22u, 1.6->7.2 Hz, out of
* the crossover region) raises phase margin ~42->58 deg, collapsing the
* cold-start clamp-release ring to one bump. C_int/R_pid don't affect PM
* (crossover sits in the proportional region). R_int also scales R_bc ->
* softer anti-windup release.  Input is the PRE-log demod node (see above).
R_intin  n_demod_dc n_int_minus 50000.0
C_intin  n_demod_dc n_int_minus 1e-09
R_pid    n_int_pidp v_int_raw 1000000.0
C_intfb  n_int_minus n_int_pidp 3.18e-07 IC=0
C_hf     n_int_pidp v_int_raw 1e-09 IC=0
XU_int n_int_plus n_int_minus vcc_buf vee_buf v_int_raw uopamp_lvl3 Avol=5meg GBW=1meg Rin=100g Rout=10 Iq=800u Ilimit=25m Vos=50u Vmax=30 Vrail=0.1

* ===== Passive saturator + back-calc anti-windup =====
* v_int_raw is the integrator's free-swinging output.  v_int (the
* "clamped" version that drives the LED) is bounded between V_clamp_lo
* and V_clamp_hi by Schottky diodes through R_aw_out.  e_sat measures
* how far v_int_raw has wound past the clamp, and R_bc feeds that error
* back into the integrator summing junction to unwind it quickly.
.model Dclamp D(Is=1e-7 N=0.05 RS=0.01 BV=40)
* Clamp range bounds the loop's wind-up.  In the polarity-swapped arch
* V_int=0 is "max drive" (cold-start state) and V_int_OP > 0; V_clamp_lo
* is the safety bound that prevents wind-down past the H11F's max-I_F.
* V_clamp_hi is wind-up safety past the operating point.
V_clamp_hi v_clamp_hi 0 4.0
V_clamp_lo v_clamp_lo 0 -0.5
R_aw_out  v_int_raw v_int 10
D_aw_hi   v_int     v_clamp_hi Dclamp
D_aw_lo   v_clamp_lo v_int     Dclamp
* Back-calc diff amp: e_sat = v_int_raw - v_int (unity-gain difference)
R_diff1 v_int n_aw_diff_minus 100k
R_diff2 v_int_raw n_aw_diff_plus 100k
R_diff3 n_aw_diff_minus e_sat 100k
R_diff4 n_aw_diff_plus 0 100k
XU_aw_diff n_aw_diff_plus n_aw_diff_minus vcc_buf vee_buf e_sat uopamp_lvl3 Avol=5meg GBW=1meg Rin=100g Rout=10 Iq=800u Ilimit=25m Vos=50u Vmax=30 Vrail=0.1
* Back-calc resistor: R_bc < R_int gives FASTER unwinding than wind-up,
* so once the integrator saturates the clamp, anti-windup can pull it
* back down quickly.  R_bc = R_int / 20 → 20× faster than wind-up.
R_bc e_sat n_int_minus 2500.0

R_led_set n_v_led n_led_a 270

* fault supervisor disabled

* over-power protection disabled

.tran 50u 15.0 0 uic
.options reltol=1e-4 abstol=1n vntol=1u

.save v(v_osc_drive) v(node_A) v(n_demod_dc) v(v_int) v(T_node) v(r_fil) v(n_led_a)
.control
run
wrdata /home/lewisbrown/claude-code/smps-design-tools/ngspice_examples/_regulator/run.data v(v_osc_drive) v(node_A) v(n_demod_dc) v(v_int) v(T_node) v(r_fil) v(n_led_a)
.endc
.end
